US08754242B2
Jones' reagent (138 ml of 1.67 M solution, 230 mmol) is added dropwise over 40 minutes to a cooled (ice-bath) solution of 5-(2,4,6-trimethylphenyl)-4-hydroxycyclopent-2-enone (49.66 g, 230 mmol) in acetone (600 ml). The mixture is stirred for 1 hour. Isopropanol (100 ml) is added and the mixture is stirred at room temperature for 2 hours. The mixture is diluted with ethyl acetate and washed with brine, dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated under reduced pressure to give 2-(2,4,6-trimethylphenyl)cyclopent-4-ene-1,3-dione.

reactant | Jones' reagent | 230 mmol, 1.67 M, 138 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 5-(2,4,6-trimethylphenyl)-4-hydroxycyclopent-2-enone | 230 mmol, 49.66 g | CC1=C(C(=CC(=C1)C)C)C1C(C=CC1=O)O | C14H16O2
reactant | Isopropanol | 100 ml | C(C)(C)O | C3H8O
solvent | acetone | 600 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2,4,6-trimethylphenyl)cyclopent-4-ene-1,3-dione | CC1=C(C(=CC(=C1)C)C)C1C(C=CC1=O)=O | C14H14O2
